US09315495B2
To a solution of 2-ethoxythiophene (355 mg, 2.77 mmol) in 14 mL of 9:1 tetrahydrofuran/hexamethylphosphoramide under argon at −78° C. was added n-butyllithium (1.22 mL, 2.5 M in hexanes) dropwise over 5 minutes. After stirring at −78° C. for 20 minutes, dimethylformamide (1.07 mL, 13.9 mmol) was added in a single portion and the reaction mixture allowed to warm to room temperature while stirring, before being poured into 60 mL of 1 N hydrochloric acid. Organics were extracted with 1:1 ether/hexanes (2×75 mL), washed with 1 N hydrochloric acid (2×40 mL), water (40 mL) and brine, dried over magnesium sulfate, filtered and concentrated. The crude residue was subjected to chromatography on silica gel with gradient elution (5-7% ethyl acetate in hexanes) to give 5-ethoxy-2-thiophenecarbaldehyde (216 mg, 49%). Used without further characterization.

reactant | 2-ethoxythiophene | 2.77 mmol, 355 mg | C(C)OC=1SC=CC1 | C6H8OS
reactant | n-butyllithium | 2.5 M, 1.22 mL | C(CCC)[Li]
reactant | dimethylformamide | 13.9 mmol, 1.07 mL | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 1 N, 60 mL | Cl | ClH
solvent | tetrahydrofuran hexamethylphosphoramide | 14 mL | O1CCCC1.CN(P(=O)(N(C)C)N(C)C)C
product | 5-ethoxy-2-thiophenecarbaldehyde | 216 mg, 49% | C(C)OC1=CC=C(S1)C=O | C7H8O2S
